US04255428
An equimolar mixture of 2-nitroamino-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone and 2-(5-methyl-4-imidazolyl methylthio)ethylamine was heated under reflux in ethanol for 18 hours. The solid which crystallised out on cooling was recrystallised from methanol to give 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone, m.p. 177-178° in 51% yield. The latter compound was heated under reflux in 2N hydrogen chloride in ethanol for 24 hours and the mixture was evaporated to dryness. The residue was recrystallised from 2-propanol/ethanol containing hydrogen chloride to give 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(2-hydroxy-4-pyridylmethyl)-4-pyrimidone trihydrochloride, m.p. 172-176°.

reactant | 2-nitroamino-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(=NC=C1)OC | C11H11N5O4
reactant | 2-(5-methyl-4-imidazolyl methylthio)ethylamine | CC1=C(N=CN1)CSCCN | C7H13N3S
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(2-methoxy-4-pyridylmethyl)-4-pyrimidone | 51% yield | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC1=CC(=NC=C1)OC | C18H22N6O2S
